data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5010,"C[C:1](C#N)([O-:2])[O:3]C(=O)CCC=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8649,"CC(C)(C)[C:1]([H:2])=[N+:3]([O-])[Cl:4].CC[N:5](CC)CC.O=C1CCC(=O)N1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7944,"CC(O)[CH:1]([H:2])[CH:3]=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3696,"C[C:1]1=[CH:2]CCCC1.[Cl-].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1048,"BrC(Br)Br.COC(=O)C1=CC=C(CO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,1152,"CC[O+:1]=[CH2:2].C[O:3][B-](F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10130,"CCOC(N(CC1=CC=CC=C1)C(C=[C+:1]C[Si](C)(C)C)C1=CC=CC=C1)=[O:2].CC[O][Al-]([Cl])([Cl])[CH2]C|(2, 1)"
train,pmechdb_split_0,0,6111,"CC(=O)O.COC1=CC2=C(C=C1)C=C([C:1](CC=C(C1=CC=CC=C1)[NH2:2])=[O:3])C=C2.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9035,"C[P+](C)(C)[CH-:1][CH2:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,945,"C1=C[CH:1]=[CH:2]C=C1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9149,"O=S(=O)(O)C1=CO[C:1](S(=O)(=O)O)([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3374,"CC(C)CC[OH:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8388,"CCNC[CH:1]=[C:2](N(CC)CC)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,740,"OC1CCCC[O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2548,"CC1CCC(C(C)C)C(OC(=O)[CH:1]=[NH+:2]C(=O)C2=C(Cl)C=CC=C2)C1.C[Si](C)(C)C[CH:3]=[CH2:4].[Cl][Zn-]([Cl])[Br]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8521,"CCOC(=O)[C:1](CCCCBr)([H:2])[C:3](OCC)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6214,"CC(=O)[O:1][H:2].CC1=CCC(C)([OH:3])N1C1=NC(Br)=CC=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6651,"C1CC[NH:1]C1.COC1=C(C)C=C2CC3(C)C(=[O+:2][H:3])C(CCC3O)C2=C1.O.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1174,"CC(=O)O.CC(C)(C)C1CC2OC(=O)C34C[CH:1]5C(C23C12CC([O:2]C)OC2O4)[Br+:3]5.[Br-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,692,"CC=CC[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2986,"CCCOC=[O+:1][B-:2](F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,8557,"BrC(Br)Br.CC(CCBr)CCO[P:1](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[Br:2].O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,3028,"CO[C:1](C)=[OH+:2].C[NH:3]C.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6680,"BrC(Br)Br.C#CCOC1=CC(OCC#C)=CC([CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,424,"BrC(Br)Br.C1=CC=C(C=C[CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1CCOC1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,1983,"CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:1](C1CC(=O)N(C)C1)[H:2].O=C(C1=CC=C([N+](=O)[O-])C=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7258,"C=CC[Si](C)(C)C.CC(C)O[Si](C)(C)C.C[Si-:1](C)(C)([O+]=CCCC1=CC=CC=C1)[O:2]S(=O)(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,1435,"CC(C)[C:1]([CH:2](C1=CC=CC=C1)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,10037,"CC(C)=CCCC(C)=CC=[O:1].CCCCCC1=CC(O)=CC(O)=C1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3703,"CC[CH:1]([NH+:2](C)C)[O:3]CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9268,"CSCCC(N[C:1]([O:2][C:3](C)(C)C)=[OH+:4])C(=O)NCC1=CC=CC=C1.O=C([O-])C(F)(F)F.[Cl-]|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,316,"CO[C+:1]1C=C[C:2](C(C)C)([H:3])[CH:4]=[C:5]1Br.[F-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,219,"BrC[CH:1]=[CH2:2].O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,5467,"CC(=O)[O-:1].CC12CCC3C(CCC45CC34CC[C+:2]3SCCS[C:3]53[H:4])C1CCC2=O.CS(=O)(=O)[O-]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,1196,"CC(CCC1CCCC1)[OH:1].Cl[S:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8155,"C[C:1](C)=[O:2].[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4565,"C1=CC=C(C2=C([O-:1])C=CC=C2)C=C1.O=C([O-])[C:2]1([H:3])C=CC=C(C2=CC=CC=C2)[C:4]1=[O:5].[Na+]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7101,"C1CCOC1.COC(=O)C1(C)CCCC2(C)C1CCC[C:1]2([OH:2])[OH+:3]CCO.O.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6677,"COC(=O)[CH:1]=[C:2](C)[O-:3].C[CH:4](C)[Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4805,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.FC1=CC=C(Br)C(C2OCC[O+:1]2[H:2])=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,237,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.COC1=CC2=C(C=C1)C1CCC3(C)C4(O)CCC3(CC4[OH:3])C1CC2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3469,"CN1C2=CC=CC=C2C2(CCNC2C[C:1]2=[CH:2]C=C(O)C(O)=C2)[CH+:3]1.[Cl-]|((1, 2), 3)"
train,pmechdb_split_0,0,1886,"CCOC(=O)C(CC(C)([NH2+]C)[O-:1])C(C)=O.C[NH2+:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,781,"CC(N)=[O+:1][Si-:2](C)(C)(C)OS(C)(=O)=O|((2, 1), 1)"
